US07846956B2
2.78 g of (5-pentafluoroethyl-isoxazol-3-yl)methanol was dissolved in 10 ml of diethyl ether, and 5.25 g of triphenylphosphine and 6.63 g of carbon tetrabromide were then added. The mixture was stirred at room temperature for 1 hour. The reaction mixture was subjected to silica gel column chromatography to obtain 1.83 g of 3-(bromomethyl)-5-pentafluoroethylisoxazole.

reactant | (5-pentafluoroethyl-isoxazol-3-yl)methanol | 2.78 g | FC(C(F)(F)F)(C1=CC(=NO1)CO)F | C6H4F5NO2
reactant | triphenylphosphine | 5.25 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | carbon tetrabromide | 6.63 g | C(Br)(Br)(Br)Br | CBr4
solvent | diethyl ether | 10 ml | C(C)OCC | C4H10O
product | 3-(bromomethyl)-5-pentafluoroethylisoxazole | 1.83 g | BrCC1=NOC(=C1)C(C(F)(F)F)(F)F | C6H3BrF5NO
